US06727264B1
1-(3,4-DIFLUOROPHENYL)-2-METHYL-2-HYDROXYPROPYLAMINE:
Into a well-stirred solution of methyl 2-amino-2-(3,4-difluorophenyl)acetate (10.5 g, 52.19 mmol) in anhydrous ether (200 mL) at 0° C. a solution of methylmagnesium bromide (3 M, 87 mL, 261 mmol) in ether was added over 10 minutes. The reaction mixture was stirred at 0° C. for 2.5 h and allowed to warm to room temperature. After 12 h, the reaction mixture was carefully poured onto a mixture of ice (300 g) and saturated aqueous ammonium chloride (50 9). The ether layer was separated and the aqueous layer was extracted with more ether (4×200 mL). The combined extracts were dried with magnesium sulfate and the solvent evaporated. The crude product was purified by column chromatography on silica gel using chloroform/methanol/2M ammonia in methanol (1000:20:10, 1000:40:20, 1000:80:40) as the eluent to give the product as an oil (6.5 g, 62% yield) which was used in the next step without further purification.

reactant | methyl 2-amino-2-(3,4-difluorophenyl)acetate | 52.19 mmol, 10.5 g | NC(C(=O)OC)C1=CC(=C(C=C1)F)F | C9H9F2NO2
reactant | methylmagnesium bromide | 261 mmol, 3 M, 87 mL | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ether | 200 mL | CCOCC | C4H10O
product | 1-(3,4-DIFLUOROPHENYL)-2-METHYL-2-HYDROXYPROPYLAMINE | 6.5 g, 62% yield | FC=1C=C(C=CC1F)C(C(C)(O)C)N | C10H13F2NO
